US08030497B2
e) 5-Bromo-3-methoxy-N*2*-(2-methoxy-ethyl)-benzene-1,2-diamine
A solution of 6.19 (20 mmol) (4-bromo-2-methoxy-6-nitro-phenyl)-(2-methoxy-ethyl)-amine in 140 ml THF is hydrogenated in the presence of 1.4 g Raney-Nickel (B113W Degussa) at normal pressure for 25 h. The catalyst is filtered off and the filtrate is concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1) to afford 4.95 g of the title compound as a as a reddish oil.

reactant | (4-bromo-2-methoxy-6-nitro-phenyl)-(2-methoxy-ethyl)-amine | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NCCOC)OC | C10H13BrN2O4
solvent | THF | 140 ml | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | 1.4 g | [Ni] | Ni
product | 5-Bromo-3-methoxy-N*2*-(2-methoxy-ethyl)-benzene-1,2-diamine | 4.95 g | BrC1=CC(=C(C(=C1)N)NCCOC)OC | C10H15BrN2O2
